US04086361
(16) 4'-chloro-5-cyanovalerophenone O-(2-aminoethyl)oxime hydrochloride
10 mmol (3.3 gr) of 4',5-dichlorovalerophenone O-(2-amino ethyl)oxime hydrochloride, melting point 140° -141.5° C, were dissolved in 10 ml of dimethylsulphoxide. 25 mmol (1.2 gr) of sodium cyanide were added to said solution.

reactant | 4',5-dichlorovalerophenone O-(2-amino ethyl)oxime hydrochloride | 10 mmol, 3.3 gr | Cl.NCCON=C(CCCCCl)C1=CC=C(C=C1)Cl
reactant | sodium cyanide | 25 mmol, 1.2 gr | [C-]#N.[Na+]
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
product | 4'-chloro-5-cyanovalerophenone O-(2-aminoethyl)oxime hydrochloride | Cl.NCCON=C(CCCCC#N)C1=CC=C(C=C1)Cl | InChI=1S/C14H18ClN3O.ClH/c15-13-7-5-12(6-8-13)14(18-19-11-10-17)4-2-1-3-9-16;/h5-8H,1-4,10-11,17H2;1H
